US04460773
In 3 ml of dimethyl sulfoxide were dissolved 2.00 g (0.0115 mole) of p-bromophenol and 0.5 g (0.009 mole) of potassium hydroxide, and 1.00 g (0.0043 mole) of 5-chloro-1-phenyl-1H-pyrazolo[3,4-b]pyrazine was added to the solution. The mixture was maintained at 100° C. for 2 hours. The post treatments were conducted in the same manner as described in Example 39, and the resulting residue was recrystallized from hexane to obtain 1.41 g (the yield was 89%) of 5-(4-bromophenoxy)-1-phenyl-1H-pyrazolo[3,4-b]pyrazine in the form of a colorless scaly crystal.

reactant | p-bromophenol | 0.0115 mole, 2.00 g | C1=CC(=CC=C1O)Br | C6H5BrO
reactant | potassium hydroxide | 0.009 mole, 0.5 g | [OH-].[K+]
reactant | 5-chloro-1-phenyl-1H-pyrazolo[3,4-b]pyrazine | 0.0043 mole, 1.00 g | ClC=1N=C2C(=NC1)N(N=C2)C2=CC=CC=C2 | C11H7ClN4
solvent | dimethyl sulfoxide | 3 ml | CS(=O)C | C2H6OS
product | 5-(4-bromophenoxy)-1-phenyl-1H-pyrazolo[3,4-b]pyrazine | yield was 89% | BrC1=CC=C(OC=2N=C3C(=NC2)N(N=C3)C3=CC=CC=C3)C=C1 | C17H11BrN4O
